US07435267B2
Step 1: Preparation of (2-methoxy-1-methylethyl)(4-nitrophenyl)amine (1)
21 g (0.15 mol) of 1-fluoro-4-nitrobenzene and 42 ml of 2-amino-1-methoxypropane were introduced into a 150 ml three-necked flask. The mixture was stirred for 15 minutes and brought to the boiling point. After reaction for 2 to 3 hours, the reaction medium was poured onto ice. A yellow precipitate formed. This precipitate was filtered off, washed with water, and then successively washed with a minimum amount of ethanol, isopropyl ether, and petroleum ether. 27.8 g of expected product were isolated.

reactant | 1-fluoro-4-nitrobenzene | 0.15 mol, 21 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-amino-1-methoxypropane | 42 ml | NC(COC)C | C4H11NO
product | (2-methoxy-1-methylethyl)(4-nitrophenyl)amine | 27.8 g | COCC(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O3
